US07317021B2
(i.e. 4-Methyl-6-{2-[6-(4-trifluoromethyl-phenyl)-3H-imidazo[4,5-b]pyridin-2-yl]-ethyl}-pyridin-2-ylamine)
96 mg N-(2-amino-iodo-pyridin-3-yl)-3-(6-amino-4-methyl-pyridin-2-yl)-propionamide (compound A10) is dissolved in 3.0 ml anoxic dioxane under a nitrogen atmosphere. Subsequently, 0.7 ml of an aqueous sodium bicarbonate solution (2.0 M), 52 mg 4-(trifluoromethyl)phenyl-boronic acid, and 14 mg trans-dichloro-bis(tricyclohexylphosphane)palladium-(II) are added. The reaction mixture is refluxed at 110° C. for 20 h. Thereafter, the volatile components are removed in vacuo and the remaining residue is re-dissolved in a mixture of water/dichloromethane (1:1). The aqueous phase is extracted several times with dichloromethane. The organic layer is separated, dried using sodium sulfate, and evaporated to dryness to yield 161 mg of a colourless, crude solid. Subsequently, the residue is purified by flash chromatography on silica gel (eluent: dichloromethane/ethanol 8:1) to afford 52 mg of the title compound. M.p. 170° C. ESI-MS: 398.3 (MH+). TLC: Rf=0.25 (dichloromethane/methanol 8:1).

reactant | N-(2-amino-iodo-pyridin-3-yl)-3-(6-amino-4-methyl-pyridin-2-yl)-propionamide | 96 mg | NC1=NC=CC(=C1NC(CCC1=NC(=CC(=C1)C)N)=O)I | C14H16IN5O
reactant | sodium bicarbonate | 2.0 M, 0.7 ml | C([O-])(O)=O.[Na+]
reactant | 4-(trifluoromethyl)phenyl-boronic acid | 52 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
solvent | dioxane | 3.0 ml | O1CCOCC1 | C4H8O2
product | 4-Methyl-6-{2-[6-(4-trifluoromethyl-phenyl)-3H-imidazo[4,5-b]pyridin-2-yl]-ethyl}-pyridin-2-ylamine | 52 mg | CC1=CC(=NC(=C1)CCC1=NC=2C(=NC=C(C2)C2=CC=C(C=C2)C(F)(F)F)N1)N | C21H18F3N5
